US04012499
3-((2-Carboxyethyl)-5-tetrazolyl)thioxanthone-10,10-dioxide
Ethyl 3-bromopropionate (9.05 g) in acetone (70 ml) was added to 3-(5-tetrazolyl)thioxanthone-10,10-dioxide (15.6 g) and sodium hydroxide (2.0 g) in water (15 ml). The mixture was boiled under reflux for 8 hr. On cooling the ester product crystallised out and was filtered off, washed with dilute sodium bicarbonate solution, and recrystallised from ethanol, m.p. 143°-145° C. The ester (4.5 g) was boiled with a mixture of concentrated hydrochloric acid (40 ml) and acetic acid (120 ml) for 3 hr. On cooling, 3-((2-carboxyethyl)-5-tetrazolyl)thioxanthone-10,10-dioxide crystallised out and was filtered off and washed with water, m.p. 206°-207° C. Found: C, 53.10%; H, 3.22%; N, 14.59%. C17H12N4O5S requires C, 53.12%; H, 3.15%; N, 14.58%.

reactant | Ethyl 3-bromopropionate | 9.05 g | BrCCC(=O)OCC | C5H9BrO2
reactant | 3-(5-tetrazolyl)thioxanthone-10,10-dioxide | 15.6 g | N1N=NN=C1C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C14H8N4O3S
reactant | sodium hydroxide | 2.0 g | [OH-].[Na+]
solvent | acetone | 70 ml | CC(=O)C | C3H6O
solvent | water | 15 ml | O | H2O
product | 3-((2-Carboxyethyl)-5-tetrazolyl)thioxanthone-10,10-dioxide | C(=O)(O)CCN1N=NN=C1C=1C=CC=2C(C3=CC=CC=C3S(C2C1)(=O)=O)=O | C17H12N4O5S
